US07687515B2
C: 1-Ethyl-6-(3,4-dichlorophenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
Tetrakis(triphenylphosphine)palladium (15 mg) was added under a nitrogen atmosphere to a mixture of 6-chloro-1-ethyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (42 mg), 3,4-dichloro-phenylboronic acid (152 mg) and cesium fluoride (100 mg) in DME (2mL) and methanol (1 mL). The mixture was heated at 80° C. for 24 hours then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by using preparative LC/MS (eluent: A: NH4HCO3 10 mM/B: CH3CN). to afford the title compound (30 mg) as a white solid. 1H NMR (CDCl3) δ: 8.20-8.15 (m, 2H); 7.94 (d, J=8 Hz, 1H); 7.91 (s, 1H); 7.58 (d, J=8 Hz, 1H); 4.37 (q, J=7 Hz, 2H); 1.65 (t, J=7 Hz, 3H). MS m/z: 317/ 319 (M+1).

reactant | 6-chloro-1-ethyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 42 mg | ClC1=CC2=C(C(=N1)C#N)N=CN2CC | C9H7ClN4
reactant | 3,4-dichloro-phenylboronic acid | 152 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | cesium fluoride | 100 mg | [F-].[Cs+]
solvent | DME | 2mL | COCCOC | C4H10O2
solvent | methanol | 1 mL | CO | CH4O
catalyst | Tetrakis(triphenylphosphine)palladium | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Ethyl-6-(3,4-dichlorophenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 30 mg | C(C)N1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)Cl)Cl)C#N | C15H10Cl2N4
